US05523278
Preparation of Methyl 2-[(6-chloro-1,2-benzisoxazol-3-yl)oxy]propionate
A mixture of 6-chloro-1,2-benzisoxazol-3-ol (6.8 g, 40.1 mmol), potassium carbonate (8.3 g, 60 mmol) and methyl 2-bromopropionate (10.0 g, 60.1 mmol) in N,N-dimethylformamide is stirred at room temperature over-night and diluted with water. The resultant aqueous mixture is acidified with concentrated hydrochloric acid (pH5-pH6) and extracted with methylene chloride. The combined organic extracts are diluted with hexanes, washed with water, dried over anhydrous sodium sulfate and concentrated in vacuo to obtain a residue. Column chromatography of the residue using silica gel and ethyl acetate/hexanes solutions gives the title product as a gold oil which is identified by NMR spectral analyses.

reactant | 6-chloro-1,2-benzisoxazol-3-ol | 40.1 mmol, 6.8 g | ClC1=CC2=C(C(=NO2)O)C=C1 | C7H4ClNO2
reactant | potassium carbonate | 60 mmol, 8.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-bromopropionate | 60.1 mmol, 10.0 g | BrC(C(=O)OC)C | C4H7BrO2
reactant | hydrochloric acid | pH5 | Cl | ClH
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Methyl 2-[(6-chloro-1,2-benzisoxazol-3-yl)oxy]propionate | ClC1=CC2=C(C(=NO2)OC(C(=O)OC)C)C=C1 | C11H10ClNO4
